US08198279B2
1-(3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(4-(2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-yl)urea (AA-034)
Method F2 was used with 8-(4-aminonaphthalen-1-yloxy)pyrido[2,3-b]pyrazin-2(1H)-one and 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole to afford the title compound as a white solid (11 mg, 17%).

reactant | 8-(4-aminonaphthalen-1-yloxy)pyrido[2,3-b]pyrazin-2(1H)-one | NC1=CC=C(C2=CC=CC=C12)OC1=CC=NC=2N=CC(NC21)=O | C17H12N4O2
reactant | 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole | C(C)(C)(C)C1=NN(C(=C1)N=C=O)C1=CC=CC=C1 | C14H15N3O
product | 1-(3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(4-(2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-yl)urea | 11 mg, 17% | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C2=CC=CC=C12)OC1=CC=NC=2N=CC(NC21)=O)C2=CC=CC=C2 | C31H27N7O3
